US08389523B2
4.0 g (18.3 mmol) of ethyl 2-oxo-1,2-dihydroquinoxaline-3-carboxylate was dissolved in N,N-dimethylformamide (100 mL), and under a nitrogen stream, 0.81 g (20.3 mmol) of 60% sodiumhydride (oily) was added thereto, while maintaining the liquid temperature in the range of 5° C. to 10° C. After stirring the mixture for one hour at room temperature, 3.9 g (27.5 mmol) of iodomethane was added dropwise to the reaction solution. The mixture was stirred for a day at room temperature, and then the reaction mixture was poured into water, and extracted with ethyl acetate. The organic layer was washed with water and a saturated aqueous solution of sodium chloride, and dried over anhydrous sodium sulfate. The inorganic matter was separated by filtration, and then the solvent was distilled off under reduced pressure. The residue thus obtained was purified by silica gel chromatography (developing solvent:ethyl acetate:hexane=3:2), to obtain 3.0 g (yield: 71%) of ethyl 1-methyl-2-oxo-1,2-dihydroquinoxaline-3-carboxylate as a white powder.

reactant | ethyl 2-oxo-1,2-dihydroquinoxaline-3-carboxylate | 18.3 mmol, 4.0 g | O=C1NC2=CC=CC=C2N=C1C(=O)OCC | C11H10N2O3
reactant | sodiumhydride | 20.3 mmol, 0.81 g | [H-].[Na+]
reactant | iodomethane | 27.5 mmol, 3.9 g | IC | CH3I
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | ethyl 1-methyl-2-oxo-1,2-dihydroquinoxaline-3-carboxylate | 3.0 g, yield: 71% | CN1C(C(=NC2=CC=CC=C12)C(=O)OCC)=O | C12H12N2O3
